US05182358
Example 1. Synthesis of 2,2'-dimethyl-3,3',5,5'-tetraphenyl-[1,1'-biphenyl]-4,4'-diol
To a 250 mL three necked round bottom flask, equipped with a condenser and magnetic stirrer was added 100 g (0.48 mol) of diphenylacetone and 33.3 g (0.48 mol) of acrolein, 50 mL of diethylamine and 10 mL of triethylamine. After reacting for 3 hours at room temperature methanol was added to the reaction mixture and the product crystallized to yield 101 g (85%) of 3-methyl-2,6-diphenyl-2-cyclohexanone, m.p.: 99°-101° C. Dehydrogenation of 80 g (0.32 mol) of this product in the presence of 4 g of 5% palladium on carbon catalyst was carried out for 20 min at 260° C. The reaction mixture was cooled and dissolved in hot ethanol and filtered to yield 65.1 g (83%) of 2,6-diphenyl-3-methylphenol. 50 g of 2,6-diphenyl-3-methylphenol was treated with 3.8 g of CuCl and 400 mL of butyronitrile. The reaction was heated to 100° C. while passing oxygen through for 4 hours. A while solid precipitated during the reaction.

reactant | 2,6-diphenyl-3-methylphenol | 50 g | C1(=CC=CC=C1)C1=C(C(=CC=C1C)C1=CC=CC=C1)O | C19H16O
reactant | oxygen | O=O | O2
catalyst | CuCl | 3.8 g | Cl[Cu]
solvent | butyronitrile | 400 mL | C(CCC)#N | C4H7N
product | 2,2'-dimethyl-3,3',5,5'-tetraphenyl-[1,1'-biphenyl]-4,4'-diol | CC1=C(C=C(C(=C1C1=CC=CC=C1)O)C1=CC=CC=C1)C1=C(C(=C(C(=C1)C1=CC=CC=C1)O)C1=CC=CC=C1)C | C38H30O2
